US05538984
6-Cyano-3-[2-[1-(phenylmethyl)-4-piperidyl]ethyl]-1,2-benzisoxazole
A solution of NaNO2 (0.112 g, 1.62 mmol) in H2O (4 mL) was added to a solution of 6-amino-3-[2-[1-(phenylmethyl)-4-piperidinyl]ethyl]-1,2-benzisoxazole (0.534 g, 1.59 mmol) in 28% HCl (20 mL) kept at 0° C. The resulting mixture was neutralized to pH 7 by cautious addition of solid Na2CO3. The neutral mixture was added in portions to a well-stirred mixture of toluene (75 mL), ice, and a freshly prepared solution of CuCN (Organic Synthesis, Coll. Vol. I, p. 514; CuSO4 :0.318 g, 1.99 mmol). The mixture obtained was kept at 0° C. for 30 minutes, then at room temperature for 2 hours, and finally, heated at 50° C. for 5 minutes. The mixture was extracted with ethyl acetate and the organic phase was washed with H2O, brine, dried (MgSO4), filtered, and concentrated. Purification by silica gel flash chromatography (3% MeOH-CH2Cl2) gave the title compound (0.236 g, 43%) as a pale orange solid. Recrystallization (EtOH-hexanes) of a small sample gave the title compound as an off-white solid.

reactant | NaNO2 | 1.62 mmol, 0.112 g | N(=O)[O-].[Na+]
reactant | 6-amino-3-[2-[1-(phenylmethyl)-4-piperidinyl]ethyl]-1,2-benzisoxazole | 1.59 mmol, 0.534 g | NC1=CC2=C(C(=NO2)CCC2CCN(CC2)CC2=CC=CC=C2)C=C1 | C21H25N3O
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
reactant | CuCN | 1.99 mmol, 0.318 g | C(#N)[Cu]
solvent | H2O | 4 mL | O | H2O
solvent | HCl | 20 mL | Cl | ClH
solvent | toluene | 75 mL | C1(=CC=CC=C1)C | C7H8
product | 6-Cyano-3-[2-[1-(phenylmethyl)-4-piperidyl]ethyl]-1,2-benzisoxazole | 0.236 g, 43% | C(#N)C1=CC2=C(C(=NO2)CCC2CCN(CC2)CC2=CC=CC=C2)C=C1 | C22H23N3O
